US06071903
Methyl 3-Hydroxy-2-[(4-methoxybenzenesulfonyl)-(2-nitrobenzyl) amino]propionate
To a solution of 15.0 g (51.85 mmol) of methyl 3-hydroxy-2-(4-methoxybenzenesulfonylamino)propionate in 125 ml of N,N-dimethylformamide, cooled in an ice bath, was added portionwise 2.29 g (57.03 mmol) of NaH (60% in oil). The mixture was stirred at 0° C. for 20 minutes and then a solution of 12.32 g (57.03 mmol) of 2-nitrobenzyl bromide in 25 ml of dry N,N-dimethylformamide was added dropwise. The solution was stirred at room temperature for 48 hours and diluted with 500 ml of ethyl acetate and water. The organic layer was separated and the aqueous layer extracted with 250 ml of ethyl acetate. The combined organic layer and extract was washed with 200 ml each of H2O, 1 N NaHCO3, brine and dried with Na2SO4. The solvent was removed and the residual solid was triturated with ethyl acetate, cooled and filtered to give 13.5 g (61%) of white crystals, having a m.p. 127-129° C. From a small scale run (3.0 g) there was obtained 2.32 g of white crystals, having a m.p. 127-129° C. Anal. for C18H20N2O8S: Calc'd: C.50.9; H,4.8; N,6.6; Found: C,50.9; H,4.8; N,6.5.

reactant | methyl 3-hydroxy-2-(4-methoxybenzenesulfonylamino)propionate | 51.85 mmol, 15.0 g | OCC(C(=O)OC)NS(=O)(=O)C1=CC=C(C=C1)OC | C11H15NO6S
reactant | NaH | 57.03 mmol, 2.29 g | [H-].[Na+]
reactant | 2-nitrobenzyl bromide | 57.03 mmol, 12.32 g | [N+](=O)([O-])C1=C(CBr)C=CC=C1 | C7H6BrNO2
solvent | N,N-dimethylformamide | 125 ml | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 25 ml | CN(C=O)C | C3H7NO
solvent | ethyl acetate | 500 ml | C(C)(=O)OCC | C4H8O2
solvent | water | O | H2O
product | Methyl 3-Hydroxy-2-[(4-methoxybenzenesulfonyl)-(2-nitrobenzyl) amino]propionate | 13.5 g, 61% | OCC(C(=O)OC)N(CC1=C(C=CC=C1)[N+](=O)[O-])S(=O)(=O)C1=CC=C(C=C1)OC | C18H20N2O8S
